US09216993B2
80 mg of methyl 4-methoxy-5-methyl-1H-indole-2-carboxylate (0.39 mmol) was heated at 80 degrees in a sealed tube with 1 mL of 7M ammonia in methanol. After one week reaction the solvent evaporated to produce 79 mg of 4-methoxy-5-methyl-1H-indole-2-carboxamide that was used without purification in the next step.

reactant | methyl 4-methoxy-5-methyl-1H-indole-2-carboxylate | 0.39 mmol, 80 mg | COC1=C2C=C(NC2=CC=C1C)C(=O)OC | C12H13NO3
reactant | ammonia | 7M, 1 mL | N | H3N
solvent | methanol | CO | CH4O
product | 4-methoxy-5-methyl-1H-indole-2-carboxamide | 79 mg | COC1=C2C=C(NC2=CC=C1C)C(=O)N | C11H12N2O2
